US08119674B2
4-(4-(Trifluoromethoxy)phenyl)-1,3-dihydroimidazole-2-thione
490 mg (1.89 mmol, 1 eq) of 2-amino-1-(4-(trifluoromethoxy)phenyl)ethanone hydrochloride and 320 mg (8.62 mmol, 4.5 eq) of potassium isothiocyanate are dissolved in 5 ml of water in the presence of 1 ml of a 2M hydrochloric acid solution. The reaction mixture is stirred at 100° C. for 16 hours. 320 mg (8.62 mmol, 4.5 eq) of potassium isothiocyanate are added and the reaction mixture is stirred at 100° C. for 16 hours. The medium is filtered and then the solid is washed with water. 320 mg of 4-(4-(trifluoromethoxy)phenyl)-1,3-dihydroimidazole-2-thione are collected.

reactant | 2-amino-1-(4-(trifluoromethoxy)phenyl)ethanone hydrochloride | 1.89 mmol, 490 mg, 1 eq | Cl.NCC(=O)C1=CC=C(C=C1)OC(F)(F)F
reactant | potassium isothiocyanate | 8.62 mmol, 320 mg, 4.5 eq | [N-]=C=S.[K+]
reactant | potassium isothiocyanate | 8.62 mmol, 320 mg, 4.5 eq | [N-]=C=S.[K+]
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | 2M | Cl | ClH
product | 4-(4-(Trifluoromethoxy)phenyl)-1,3-dihydroimidazole-2-thione | FC(OC1=CC=C(C=C1)C=1NC(NC1)=S)(F)F | C10H7F3N2OS
